Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
stomach discomfort  
 
Major Surgical or Invasive Procedure:
Left heart catheterization ___

 
History of Present Illness:
___ yo man with a PMH of CAD w/known 3VD, 100% LCx, 60% mid LAD, 
and 60% mid RCA with 70% PDA stenoses, on medical therapy, HTN, 
HLD, presents with cardiac symptoms. Patient reporting 
intermittent epigastric discomfort with exertion for the past 4 
days. Started after leaving the gym. Felt stomach discomfort 
with light pain and uneasiness. Slight burning in left chest, 
similar to initial CAD symptoms. No radiation to arm. Had 
consistent burping sensation. Some nausea and 1 episode of 
vomiting. No diaphoresis, shortness of breath associated with 
stomach discomfort. He thought that the pain was due to an empty 
stomach. Ate food before going to the gym 3 days ago, but 
continued to have this discomfort. Pain went away both days by 
lying down and resting. Went to gym again yesterday with similar 
feeling. Pain did not go away after resting. Went to bed early 
last night, but this morning, pain continued. Has had decreased 
PO intake due to feeling. During this time, notes a light fever 
at night and feeling cold, but did not take temperature. No 
chills. No cough, diarrhea, dysuria, swelling of legs, bloody 
bowel movement, travel, sick contacts.  

He saw his PCP today who referred him to the ED for evaluation.  

 In the ED initial vitals were: 98.7, 56, 189/84, 16, 100% RA  

 EKG: sinus brady, HR 53, normal intervals, no axis deviation, 
no ST depressions, TWI, elevations  

 Labs/studies notable for: wbc 8.6, H/H ___, plt 230. LFTs 
wnl. Trop negative x1. Na 131, K 3.5. BUN 10, Cr 1. INR 1.2. 
Lactate 1.7  
 Patient was given: ASA 324mg  
 Imaging: CXR with no acute process  
 Vitals on transfer: 97.8, 59, 123/62, 18, 98% RA  
 On the floor, BP 175/81. Patient continues to have some 
burping, but chest/stomach discomfort is not present. No nausea 
at present. Sleeping comfortably on ___ pillows. No change from 
baseline.  
 
ROS:  
 Cardiac review of systems is notable for absence of dyspnea on 
exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope or presyncope. Denies exertional buttock 
or calf pain.  

 On further review of systems, denies any prior history of 
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding at the time of surgery, myalgias, joint pains, cough, 
hemoptysis, black stools or red stools. Denies recent chills or 
rigors. All of the other review of systems were negative.  
 
Past Medical History:
 CAD: ___: Cath: 100% occlusion of LCx, 60% mid LAD, and 60% 
mid RCA with 70% PDA stenoses - with right to left collaterals   

 HTN
 DYSLIPIDEMIA
 ALLERGIC RHINITIS  
 CERVICAL SPONDYLOSIS  
 CHONDROMALACIA PATELLAE  
 ELBOW PAIN, BILATERAL  
 ___, BILATERAL  
 EPISTAXIS, RECURRENT  
 ERECTILE DYSFUNCTION  
 HYPOGONADISM, MALE  
 SUBDURAL HEMATOMA
 
Social History:
___
Family History:
Father died at ___ due to head trauma after a fall. Mother died 
at ___ due to an unknown cause. 
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION
=========================

 PHYSICAL EXAM:  
 VS: 98.2 PO, 175 / 81 L Sitting, 59, 18, 99 RA  
 GENERAL: WDWN man, in NAD. Oriented x3. Mood, affect 
appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. Dry MM. No 
xanthelasma.  
 NECK: Supple with flat JVP  
 CARDIAC: Bradycardic, RR, normal S1, S2. No 
murmurs/rubs/gallops. No thrills, lifts.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Bowel sounds present, Soft, NTND. No HSM or 
tenderness.  
 EXTREMITIES: No c/c/e. No femoral bruits.  
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 PULSES: Distal pulses palpable and symmetric  

PHYSICAL EXAM ON DISCHARGE
==========================
 VS: T 98.6 PO 127 / 60 L Lying 56 18 96 RA 
(BPs 120s-170s/60s-80s since admission)
 GENERAL: well nourished M, pleasant and cooperative, lying in 
bed and in NAD. Mood, affect appropriate.  
 HEENT: NC/AT 
 NECK: appears supple
 CARDIAC: Bradycardic, otherwise regular rhythm, 
murmurs/rubs/gallops noted.
 LUNGS: No chest wall deformities noted. LCTAB, no crackles, 
rales or rhonchi noted.  
 ABDOMEN: NABS, abdomen soft NT ND.  
 EXTREMITIES: warm and well perfused, no lower extremity edema 
noted. gauze bandage with clear occlusive dressing in place on R 
radial region, pulse palpated distal to dressing; no sanguinous 
drainage noted, no pulsatile mass or ecchymosis noted.
 
Pertinent Results:
PERTINENT LABS
================
___ 07:40AM BLOOD WBC-6.3 RBC-4.14* Hgb-12.1* Hct-36.1* 
MCV-87 MCH-29.2 MCHC-33.5 RDW-13.0 RDWSD-41.3 Plt ___
___ 05:33PM BLOOD WBC-8.6 RBC-4.85 Hgb-14.0 Hct-43.3 MCV-89 
MCH-28.9 MCHC-32.3 RDW-13.1 RDWSD-42.5 Plt ___
___ 05:33PM BLOOD Neuts-70.2 ___ Monos-8.0 Eos-0.2* 
Baso-0.1 Im ___ AbsNeut-6.06# AbsLymp-1.83 AbsMono-0.69 
AbsEos-0.02* AbsBaso-0.01
___ 07:40AM BLOOD ___ PTT-25.6 ___
___ 05:50PM BLOOD ___ PTT-29.4 ___
___ 07:40AM BLOOD Glucose-109* UreaN-11 Creat-1.0 Na-137 
K-3.6 Cl-102 HCO3-28 AnGap-11
___ 05:33PM BLOOD Glucose-112* UreaN-10 Creat-1.0 Na-131* 
K-3.5 Cl-95* HCO3-24 AnGap-16
___ 05:33PM BLOOD ALT-27 AST-24 AlkPhos-83 TotBili-0.6
___ 07:40AM BLOOD Calcium-8.5 Phos-3.9 Mg-2.4
___ 07:40AM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:33PM BLOOD cTropnT-<0.01
___ 05:54PM BLOOD Lactate-1.7

MICROBIOLOGY
==============
none

IMAGING
=============
___ CXR
FINDINGS: 
 
Cardiac silhouette size is normal.  The aorta is mildly 
unfolded.  Mediastinal and hilar contours are otherwise 
unremarkable.  Pulmonary vasculature is normal.  Lungs are 
clear.  No pleural effusion or pneumothorax is identified. 
No acute osseous abnormality is detected.
 
IMPRESSION: 
No acute cardiopulmonary abnormality.

PROCEDURES
==========
CATH REPORT ___
Coronary Anatomy
LM: Distal 60% stenosis into LAD.
LAD: Mid vessel 50% stenosis.
LCx: Ostially occluded. Fills robustly via RV marginal 
collateral.
RCA: Mid vessel 50% stenosis.
Impressions:
Mild progression of LM/LAD disease.
Unclear if related to symptoms. He has no exertional symptoms.

 
Brief Hospital Course:
Mr. ___ ___ yo man with a PMH of CAD w/known 3VD, 100% LCx, 
60% mid LAD, and 60% mid RCA with 70% PDA stenoses, on medical 
therapy, HTN, HLD, presents with stomach discomfort, concerning 
for unstable angina. 
 
 # Unstable Angina: patient with stomach discomfort and left 
chest burning that  he first noticed after exercise at the gym; 
Initially improved with rest, but then persisted despite rest. 
He described these symptoms as abdominal pain that was burning 
and on laying down felt like it spread to his L lower chest; 
however there was some concern on admission that his symptoms 
were similar to initial CAD symptoms in ___ when multivessel 
disease was found. Negative trops x1 in ED. EKG without ischemic 
changes seen. Given known multivessel CAD with LCx 100% 
occlusion with moderate disease in LAD, RCA, PDA, decision made 
to not undergo stress test, as he had known CAD, and instead 
move forward to Cath. He was not given heparin, but was given 
Aspirin 325 in the ED; he was continued on home  meds 
(atorvastatin 80 mg, metoprolol was split into 12.5 BID.) On the 
floor he denied chest pain, palpitations and SOB. Second 
negative troponins on arrival to floor. He was given maalox with 
resolution of his stomach discomfort, and subsequently went for 
catheterization which showed only mild progression of 
multivessel disease. Later in the afternoon, he was chest pain 
free and without abdominal pain. He was discharged on his home 
medications.

# HTN: Patient with known hypertension. Hypertensive to 
120s-170s systolic on admission but BPs improved this AM. Plan 
to discharge on home dose of Valsartan 80 mg daily, with 
recommend to uptitrate as needed as outpatient. 

# Hyponatremia: Na 131, Cl 95 in the ED. Patient reportedly 
appeared volume depleted, especially in setting of decreased 
appetite due to stomach discomfort. Given 500 cc bolus IVF on 
admission.  Improved on AM labs.

 # GERD: Patient's abdominal pain on admission thought to be 
likely ___ gastric irritation, with concern for GERD. Abdominal 
pain improved with maalox, recommended starting omeprazole 20mg 
BID on discharge.

  
 # CONTACT: ___ (Wife) ___ ___ (son) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Valsartan 80 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
burping  
2.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  Metoprolol Succinate XL 25 mg PO DAILY  
6.  Valsartan 80 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Non-cardiac chest pain, GERD
Secondary: H/o CAD, HTN, hyponatremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You came to ___ because your primary care doctor was concerned 
about your abdominal pain and chest pain.
You underwent cardiac catheterization this morning, which showed 
that your heart disease and blockages are about the same as it 
was on your last catheterization. Therefore, we were not 
concerned that you were having any chest pain related to heart 
disease. If your pain continues please speak with your PCP to 
discuss getting a stress test as an outpatient.
We started you on omeprazole for your abdominal pain.

It was a pleasure caring for you at ___ and we wish you all 
the best.

Sincerely,
Your care team at ___

 
Followup Instructions:
___